US08334382B2
3. 2-(5-chloro-6-((R)-4-(6-(3-chloro-4-fluorophenyl)-2-((R)-2-methylpyrrolidin-1-yl)pyrimidin-4-yl)-3-methylpiperazin-1-yl)pyridin-3-yl)-N,N-dimethylethanamine
To a solution of 2-(5-chloro-6-((R)-4-(6-(3-chloro-4-fluorophenyl)-2-((R)-2-methylpyrrolidin-1-yl)pyrimidin-4-yl)-3-methylpiperazin-1-yl)pyridin-3-yl)acetaldehyde (64 mg, 0.118 mmol) in DCE, add dimethylamine (3.87M in THF, 40 μL) followed by 1 drop of HOAc. Stir the mixture overnight, and then dilute with DCM and wash (2×) with 10% NaOH solution. Concentrate under reduced pressure and add EtOAc, followed by a solution of HCl in ether. Concentrate and triturate the hydrochloride salt with fresh EtOAc to afford the title compound. 1H NMR (400 MHz, CDCl3): δ1.31 (d, 3H, J=6.23 Hz, CH3), 1.39 (d, 3H, J=6.6 Hz, CH3), 1.68 (m, 1H), 1.91 (m, 1H), 2.05 (m, 5H), 2.68 (s, 6H, N(CH3)2), 2.9-3.1 (m, 4H), 3.65 (m, 1H), 3.63-3.9 (m, 4H), 4.34 (m, 2H), 4.67 (br s, 1H), 6.20 (s, 1H), 7.18 (t, 1H), 7.55 (s, 1H), 7.88 (m, 1H), 8.06 (s, 2H).

reactant | 2-(5-chloro-6-((R)-4-(6-(3-chloro-4-fluorophenyl)-2-((R)-2-methylpyrrolidin-1-yl)pyrimidin-4-yl)-3-methylpiperazin-1-yl)pyridin-3-yl)acetaldehyde | 0.118 mmol, 64 mg | ClC=1C=C(C=NC1N1C[C@H](N(CC1)C1=NC(=NC(=C1)C1=CC(=C(C=C1)F)Cl)N1[C@@H](CCC1)C)C)CC=O | C27H29Cl2FN6O
reactant | dimethylamine | 3.87M, 40 μL | CNC | C2H7N
solvent | DCE | ClCCCl | C2H4Cl2
catalyst | HOAc | 1 drop | CC(=O)O | C2H4O2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 2-(5-chloro-6-((R)-4-(6-(3-chloro-4-fluorophenyl)-2-((R)-2-methylpyrrolidin-1-yl)pyrimidin-4-yl)-3-methylpiperazin-1-yl)pyridin-3-yl)-N,N-dimethylethanamine | ClC=1C=C(C=NC1N1C[C@H](N(CC1)C1=NC(=NC(=C1)C1=CC(=C(C=C1)F)Cl)N1[C@@H](CCC1)C)C)CCN(C)C | C29H36Cl2FN7
